US09126945B2
4.0 g (12.8 mmol) of 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid are suspended in 50 ml of dichloromethane. 0.02 ml of N,N-dimethylformamide and 3.54 ml (38.4 mmol) of oxalyl chloride are then added in succession. The reaction mixture is then stirred first at room temperature for 30 minutes and then under reflux for 30 minutes. The solvent is removed under reduced pressure on a rotary evaporator. The 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride formed is used for the subsequent synthesis step without further purification.

reactant | 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid | 12.8 mmol, 4.0 g | CN1N=C(C(=C1C(=O)O)C(F)(F)F)C(C(F)(F)F)(F)F | C8H4F8N2O2
reactant | N,N-dimethylformamide | 0.02 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 38.4 mmol, 3.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride | CN1N=C(C(=C1C(=O)Cl)C(F)(F)F)C(C(F)(F)F)(F)F | C8H3ClF8N2O
